US04777255
EXAMPLE 1 Preparation of 6-amino-5-formamido-1-propyl- 2,4-(1H,3H)-pyrimidinedione
Sodium nitrite (127 kg) was dissolved in water and added to suspension of 6-amino-1-propyl-2,4-(1H,3H)-pyrimidinedione (300 kg) in formic acid (1 400 kg). Pt/C 5 % was added and the reaction mixture was heated to 40°-80° C. The catalyst was filtered off, formic acid was distilled off and ethanol (870 kg) was added. The product was precipitated by cooling and isolated by centrifugation, washed with ethanol/water and used directly in Example 2.

reactant | Sodium nitrite | 127 kg | N(=O)[O-].[Na+]
reactant | 6-amino-1-propyl-2,4-(1H,3H)-pyrimidinedione | 300 kg | NC1=CC(NC(N1CCC)=O)=O | C7H11N3O2
reactant | formic acid | 400 kg | C(=O)O | CH2O2
solvent | water | O | H2O
catalyst | Pt/C | [Pt] | Pt
product | 6-amino-5-formamido-1-propyl- 2,4-(1H,3H)-pyrimidinedione | NC1=C(C(NC(N1CCC)=O)=O)NC=O | C8H12N4O3
